US09302991B2
N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)benzo[d]isoxazole-3-carboxamide (single enantiomer)
To a solution of (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride (20 mg, 0.078 mmol, Amine-1, single enantiomer) and N,N-diisopropylethylamine (0.054 mL, 0.31 mmol) in dichloromethane (0.5 mL) is added dropwise a solution of benzo[d]isoxazole-3-carbonyl chloride (17 mg, 0.094 mmol) in dichloromethane (0.5 mL) at room temperature. The reaction mixture is stirred at room temperature for 1 hour. The mixture is diluted with ethyl acetate (3 mL) and washed with water (1.5 mL). The organic layer is dried over sodium sulfate, and concentrated under reduced pressure. The residue is purified by column chromatography on NH-silica gel eluting with ethyl acetate and then preparative LC-MS to give 9.1 mg (32% yield) of the title compound.

reactant | (−)-1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethanamine hydrochloride | 0.078 mmol, 20 mg | Cl.FC(COC1=CC=C(C=N1)C(C)N)(F)F
reactant | N,N-diisopropylethylamine | 0.31 mmol, 0.054 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | benzo[d]isoxazole-3-carbonyl chloride | 0.094 mmol, 17 mg | O1N=C(C2=C1C=CC=C2)C(=O)Cl | C8H4ClNO2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 0.5 mL | ClCCl | CH2Cl2
solvent | ethyl acetate | 3 mL | C(C)(=O)OCC | C4H8O2
product | N-(1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethyl)benzo[d]isoxazole-3-carboxamide | 9.1 mg, 32% yield | FC(COC1=CC=C(C=N1)C(C)NC(=O)C1=NOC2=C1C=CC=C2)(F)F | C17H14F3N3O3
